US04618692
Benzyl-2-[bis-(2-chloroethyl)-amino]-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-oxy-carbamate
750 mg (2.7 mmol) of 4-hydroxycyclophosphamide and 450 mg (2.7 mmol) of benzyl-hydroxycarbamate are dissolved in 6 ml of methylene chloride free of alcohol. A small amount of trichloroacetic acid is added thereto and the solution is allowed to stand at -25° C. in a refrigerator for 3 days. The resulting solution is filtered off, the mother liquor is diluted with 5 ml of chloroform, then is diluted with water and thereafter is washed with a dilute solution of NaHCO3 and with water. The washed solution is dried over sodium sulfate and is evaporated in a vacuum. The oily residue thereafter is recrystallized from acetic acid ethyl ester containing a small amount of methanol.

reactant | 4-hydroxycyclophosphamide | 2.7 mmol, 750 mg | C1COP(=O)(NC1O)N(CCCl)CCCl | C7H15Cl2N2O3P
reactant | benzyl-hydroxycarbamate | 2.7 mmol, 450 mg | C(C1=CC=CC=C1)OC(NO)=O | C8H9NO3
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | Benzyl-2-[bis-(2-chloroethyl)-amino]-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-oxy-carbamate | C(C1=CC=CC=C1)OC(NOC1NP(OCC1)(=O)N(CCCl)CCCl)=O | C15H22Cl2N3O5P
